US05116862
n-Butyllithium (19.0 ml., 1.6M solution in hexane) was added dropwise to a stirred solution of acetone N,N-dimethylhydrazone (2.6 g.) (ref. R. H. Wiley at al J. Org. Chem. 1957, 22, 204) in dry tetrahydrofuran (40 ml.) at -70°, under a current of nitrogen. The resulting solution was stirred for 30 minutes and a solution of 5-iodo-1-trimethylsilylpent-1-yne (8.1 g.) in dry tetrahydrofuran (30 ml.) was added dropwise and the reaction mixture was stirred at -70° for 1 hour, allowed to warm to 0° and stirred for 2 hours. The reaction mixture was cooled to -70° and a second portion of n-butyllithium (19 ml. 1.6M solution in hexane) was added dropwise. The mixture was stirred at -70° for 15 minutes, allowed to warm to 0° and stirred for 30 minutes. A solution of 5-iodomethyl-2,2-dimethyl-5-n-propyl-1,3-dioxane (9.0 g. European Patent 216625) in dry tetrahydrofuran (30 ml.) was added. The mixture was stirred at 0° for 30 minutes and 48 hours at 20°. The solvent was removed in vacuo and the residue was poured into water. The aqueous mixture was extracted with diethyl ether and the ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. Chromatography of the residue on silica, eluting with diethyl ether:hexane 1:9 gave a yellow oil which consisted of 2,2-dimethyl-5-(3-oxo-9-trimethylsilylnon-8-ynyl)-5-n-propyl-1,3-dioxane and 7-oxo-1-trimethylsilyloct-1-yne in the ratio of 3:1 (1.4 g.). The above mixture in tetrahydrofuran (25 ml.) and hydrochloric acid (50 ml., 1N solution) was stirred vigorously at 20° for 1 hour. The tetrahydrofuran was removed in vacuo and the residue was extracted into diethyl ether. The ethereal extracts were dried over magnesium sulphate and the solvent was removed in vacuo. 4-n-Propyl-1-(6-trimethylsilylhex-5-ynyl) 2,6-dioxabicyclo[2.2.2]octane was obtained as a colourless oil (1.06 g.) and was used without further purification.

reactant | n-Butyllithium | 1.6M, 19.0 ml | C(CCC)[Li]
reactant | acetone N,N-dimethylhydrazone | 2.6 g | CN(N=C(C)C)C | C5H12N2
reactant | 5-iodo-1-trimethylsilylpent-1-yne | 8.1 g | ICCCC#C[Si](C)(C)C | C8H15ISi
reactant | n-butyllithium | 1.6M, 19 ml | C(CCC)[Li]
reactant | 5-iodomethyl-2,2-dimethyl-5-n-propyl-1,3-dioxane | 9.0 g | ICC1(COC(OC1)(C)C)CCC | C10H19IO2
reactant | 2,2-dimethyl-5-(3-oxo-9-trimethylsilylnon-8-ynyl)-5-n-propyl-1,3-dioxane | CC1(OCC(CO1)(CCC)CCC(CCCCC#C[Si](C)(C)C)=O)C | C21H38O3Si
reactant | 7-oxo-1-trimethylsilyloct-1-yne | O=C(CCCCC#C[Si](C)(C)C)C | C11H20OSi
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-n-Propyl-1-(6-trimethylsilylhex-5-ynyl) 2,6-dioxabicyclo[2.2.2]octane | C(CC)C12COC(OC1)(CC2)CCCCC#C[Si](C)(C)C | C18H32O2Si
